US04644005
I3. 7-acetyloxindole
To a solution of 12.57 g. (79 mmoles) of 7-acetylindole in 187 ml. of methylene chloride was added 11.07 g. (82.9 mmoles) of N-chlorosuccinimide and the reaction allowed to stir at room temperature for 2 hours. The solvent was removed in vacuo and the residue treated with 155 ml. of acetic acid and heated to 80° C. Phosphoric acid (80 ml.) was added and the reaction mixture heated to reflux for 9 hours. The mixture was cooled, the acetic acid removed under vacuum and the residue poured into 500 ml. of ice and water. The product was extracted with methylene chloride, 11.91 g. (65% yield), 174°-175° C.

reactant | 7-acetylindole | 79 mmoles | C(C)(=O)C=1C=CC=C2C=CNC12 | C10H9NO
reactant | N-chlorosuccinimide | 82.9 mmoles | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 7-acetyloxindole | 65% yield | C(C)(=O)C=1C=CC=C2CC(NC12)=O | C10H9NO2
